US05627286
F. Preparation of 3-chloro-3-methyl-1-(2-nitro-1H-imidazol-1-yl acetamido)-2-butanone oxime
N-(3-methyl-2-butenyl)-2-(2-nitro-1H-imidazol-1-yl)acetamide (3.4 g, 14.3 mmol) was dissolved in isoamyl nitrite (50 mL) at room temperature. The solution was cooled to 0°-5° C. in an ice-salt bath. Concentrated HCl (1.39 mL) was added dropwise. The reaction temperature was maintained between 0° to 5° C. during the addition of HCl. The reaction mixture was stirred in the ice-salt bath for 1 h, filtered, and washed with 1:2 ethanol-ether to give a white solid. Yield: 3.7 g (85%). mp: 154°-160° C. (decomp.). 1H NMR (DMSO-d6) ε 1.74 and 1.88 [s, 6H, =C(CH3)2 ], 4.17 (q, 2H, HNCH2CH=), 5.08 (s, 2H, COCH2 -imidazolyl), 5.14 (t, 1H, CH2CH=), 7.18 and 7.63 (s, 2H, 2-nitroimidazolyl-H), 8.51 (t, 1H, HNCO), 11.60 (b, 1H, HON=C).

reactant | N-(3-methyl-2-butenyl)-2-(2-nitro-1H-imidazol-1-yl)acetamide | 14.3 mmol, 3.4 g | CC(=CCNC(CN1C(=NC=C1)[N+](=O)[O-])=O)C | C10H14N4O3
reactant | HCl | 1.39 mL | Cl | ClH
reactant | HNCO | N=C=O | CHNO
reactant | isoamyl nitrite | 50 mL | N(=O)OCCC(C)C | C5H11NO2
product | 3-chloro-3-methyl-1-(2-nitro-1H-imidazol-1-yl acetamido)-2-butanone oxime | ClC(C(CNC(CN1C(=NC=C1)[N+](=O)[O-])=O)=NO)(C)C | C10H14ClN5O4
